US07482366B2
To a solution of 1-(4-bromo-furan-2-yl)-4,4-difluoro-hexane-1,3-dione (220 mg, 0.75 mmol), and 2-cyano-N-(2,4-difluoro-benzyl)-acetamide (300 mg, 1.4 mmol) in benzene (4 mL) was added 1,8-diaza-bicycle-[5.4.0]-undec-7-ene (60 μL, 0.4 mmol). The red reaction mixture was then heated to reflux. After 3 hours, heating was discontinued and the reaction was allowed to cool to ambient temperature. After stirring at ambient temperature for 16 hours the reaction mixture was diluted with CH2Cl2 and purified by adsorbing the material onto silica gel, loading the resulting solid onto the column and eluting with a gradient from 0% to 30% ethyl acetate/hexane to afford 6-(4-bromo-furan-2-yl)-1-(2,4-difluoro-benzyl)-4-(1,1-difluoro-propyl)-2-oxo-1,2-dihydro-pyridine-3-carbonitrile (188 mg, 54% yield) as a yellow oil. 1H-NMR (400 MHz, CDCl3): δ 7.62 (1H, s), 7.1-7.03 (1H, m), 6.86-6.78 (2H, m), 6.76 (1H, s), 6.64 (1H, s), 5.46 (2H, s), 2.31 (2H, t of q, JH-H=7.6 Hz, JH-F=16.9 Hz), 1.11 (3H, t, J=7.6 Hz).

reactant | 1-(4-bromo-furan-2-yl)-4,4-difluoro-hexane-1,3-dione | 0.75 mmol, 220 mg | BrC=1C=C(OC1)C(CC(C(CC)(F)F)=O)=O | C10H9BrF2O3
reactant | 2-cyano-N-(2,4-difluoro-benzyl)-acetamide | 1.4 mmol, 300 mg | C(#N)CC(=O)NCC1=C(C=C(C=C1)F)F | C10H8F2N2O
reactant | undec-7-ene | 0.4 mmol, 60 μL | CCCCCCC=CCCC | C11H22
solvent | benzene | 4 mL | C1=CC=CC=C1 | C6H6
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 6-(4-bromo-furan-2-yl)-1-(2,4-difluoro-benzyl)-4-(1,1-difluoro-propyl)-2-oxo-1,2-dihydro-pyridine-3-carbonitrile | 188 mg, 54% yield | BrC=1C=C(OC1)C1=CC(=C(C(N1CC1=C(C=C(C=C1)F)F)=O)C#N)C(CC)(F)F | C20H13BrF4N2O2
